US07265120B2
To a suspension of NaH (60% in oil suspension) (31.1 mg) in DMA (0.6 ml) was added 4-fluorophenol (87.3 mg) and the mixture was stirred at 25-30° C. for 30 minutes. 6-[5-Amino-6-(methylsulfonyl)-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone (150 mg) was added and the mixture was heated at 100-105° C. for 15 hours. After addition of 0.1N HCl (3 ml), an aqueous layer was removed by decantation to give a residue. The residue was purified by column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (60:40 v/v) to give a solid. The solid was crystallized from a mixture of acetone and n-hexane to give 6-[5-amino-6-(4-fluorophenoxy)-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone (70 mg)

reactant | NaH | 31.1 mg | [H-].[Na+]
reactant | 4-fluorophenol | 87.3 mg | FC1=CC=C(C=C1)O | C6H5FO
reactant | 6-[5-Amino-6-(methylsulfonyl)-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone | 150 mg | NC=1N=C(C(=NC1S(=O)(=O)C)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C18H19N5O3S
reactant | HCl | 0.1N, 3 ml | Cl | ClH
solvent | DMA | 0.6 ml | CC(=O)N(C)C | C4H9NO
product | 6-[5-amino-6-(4-fluorophenoxy)-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone | 70 mg | NC=1N=C(C(=NC1OC1=CC=C(C=C1)F)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C23H20FN5O2
